*** SPICE deck for cell NAND_sim{lay} from library NandGate
*** Created on Cum Ara 12, 2025 19:19:46
*** Last revised on Cum Ara 12, 2025 22:46:15
*** Written on Cum Ara 12, 2025 22:46:52 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** SUBCIRCUIT NandGate__NAND FROM CELL NandGate:NAND{lay}
.SUBCKT NandGate__NAND A AB B gnd vdd
Mnmos@1 AB A net@6 gnd N L=0.6U W=3U AS=2.7P AD=5.25P PS=4.8U PD=7.5U
Mnmos@2 net@6 B gnd gnd N L=0.6U W=3U AS=20.25P AD=2.7P PS=31.5U PD=4.8U
Mpmos@0 vdd A AB vdd P L=0.6U W=3U AS=5.25P AD=13.5P PS=7.5U PD=21U
Mpmos@1 AB B vdd vdd P L=0.6U W=3U AS=13.5P AD=5.25P PS=21U PD=7.5U
.ENDS NandGate__NAND

*** TOP LEVEL CELL: NandGate:NAND_sim{lay}
XNAND@0 A AB B gnd vdd NandGate__NAND

* Spice Code nodes in cell cell 'NandGate:NAND_sim{lay}'
vdd vdd 0 DC 5
va A 0 DC pwl 10n 0 20n 5 50n 5 60n 0 90n 0 100n 5 130n 5 140n 0 170n 0 180n 5
vb B 0 DC pwl 10n 0 20n 5 100n 5 110n 0
.measure tran tf trig v(AB) val=4.5 fall=1 td=4ns targ v(AB) val=0.5 fall=1
.measure tran tr trig v(AB) val=0.5 rise=1 td=4ns targ v(AB) val=4.5 rise=1
.tran 200n
.include C:\Users\omery\Desktop\C5_models.txt
* Trailer cards described in this file:
.include C:\Users\omery\Desktop\C5_models.txt
.END
